* ideal_opamp.lib
* Pin order: +IN  -IN   VCC   VEE   OUT
.subckt ideal_opamp 1 2 3 4 5
EOUT 5 0 1 2 1e6
Rout 5 0 1k
Gib 1 0 value={1e-12}
Gib2 2 0 value={1e-12}
.ends ideal_opamp

